US07612055B2
d) N-allyl-N-cyclopropyl-isophthalamic acid example 11h
A solution of 0.3 g (1.37 mmol) N-cyclopropyl-isophthalamic acid in 10 ml THF is treated with 142 mg (3.55 mmol) NaH (60% suspension in mineral oil) and stirred at 25° C. After 2 h 0.27 ml (3.23 mmol) allylbromide is added and after 18 h the reaction is quenched with water. The mixture is acidified with 2N HCl and extracted with EtOAc. The organic phase is washed with brine, dried with sodium sulfate and evaporated to yield the title compound that is used in the next step without purification.

reactant | N-cyclopropyl-isophthalamic acid | 1.37 mmol, 0.3 g | C1(CC1)NC(C=1C=C(C(=O)O)C=CC1)=O | C11H11NO3
reactant | NaH | 3.55 mmol, 142 mg | [H-].[Na+]
reactant | allylbromide | 3.23 mmol, 0.27 ml | C(C=C)Br | C3H5Br
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-allyl-N-cyclopropyl-isophthalamic acid | C(C=C)N(C(C=1C=C(C(=O)O)C=CC1)=O)C1CC1 | C14H15NO3
